US07994204B2
3-Ethyl-2-(4-fluorophenoxy)-3H-imidazole-4-carbaldehyde
A suspension of the compound obtained in Example 7-(1) (5.0 g), 4-fluorophenol (2.87 g) and Cs2CO3 (10.4 g) in DMPU (10 ml) was stirred at 200° C. for 1 hour. After cooling to room temperature, the reaction mixture was diluted with methanol/chloroform (1/4) and filtered. The filtrate was concentrated, and the resulting residue was purified by column chromatography (OH-type SiO2, AcOEt/hexane=0% to 30%) to give the titled compound (4.16 g) as a light-pink liquid.

reactant | 4-fluorophenol | 2.87 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | Cs2CO3 | 10.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMPU | 10 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | AcOEt hexane | CCOC(=O)C.CCCCCC
product | 3-Ethyl-2-(4-fluorophenoxy)-3H-imidazole-4-carbaldehyde | 4.16 g | C(C)N1C(=NC=C1C=O)OC1=CC=C(C=C1)F | C12H11FN2O2
